US05106861
Step C: (±)-(1S,2R,3R)-3-Tert-butoxycarbonylamino-1.2-epoxy-1,2,3,4-tetrahydro-naphthalene
A solution of (±)-(1R,2R,3R)-3-tert-butoxycarbonylamino-1-chloro-1,2,3,4tetrahydro-2-naphthalenol (348 mg) and 1,8-diazabicyclo[5.4.0]undec-7-ene (400 mg) in tetrahydrofuran (10 ml) was refluxed for 11/2 hours. The mixture was diluted with methylene chloride, washed with saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was recrystallized from cyclohexane (193 mg) to yield the title compound as a white solid, m.p. 118-119° C.

reactant | (±)-(1R,2R,3R)-3-tert-butoxycarbonylamino-1-chloro-1,2,3,4tetrahydro-2-naphthalenol | 348 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@H]([C@@H](C2=CC=CC=C2C1)Cl)O | C15H20ClNO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 400 mg | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (±)-(1S,2R,3R)-3-Tert-butoxycarbonylamino-1.2-epoxy-1,2,3,4-tetrahydro-naphthalene | C(C)(C)(C)OC(=O)N[C@H]1[C@@H]2[C@H](C3=CC=CC=C3C1)O2 | C15H19NO3
